US08426411B2
To a 250 mL round-bottomed flask 1-((1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentyl)-2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)ethanone (11.2 g, 17.51 mmol) in acetonitrile (60 ml) was added. The mixture was cooled with an ice bath and TFA (2.70 ml, 35.0 mmol) and TFAA (24.46 ml, 175 mmol) was added. The resulting mixture was warmed and stirred at about 40° C. for about 42 h. The reaction was then cooled in an ice bath and quenched with methanol (7 mL). After warming to ambient temperature and stirring for about 1 h, it was poured into ethyl acetate (100 mL) and aqueous sodium carbonate (10% w/v, 200 mL). The layers were separated and the organic layer concentrated. The residue was dissolved in THF (120 ml) and 2N sodium hydroxide (35.0 ml, 70.0 mmol) was added. The reaction mixture was warmed to about 60° C. and stirred for about 16 h. After cooling to ambient temperature, 2-methyl-tetrahydrofuran (100 mL) and brine (100 mL) were added and the layers separated. The aqueous layer was extracted with 2-methyl-tetrahydrofuran (50 mL) and the combined organic layers washed with brine (50 mL). The organic layer was concentrated, dissolved in EtOH (100 mL) and treated with charcoal (500 mg) for about 1 h. The charcoal was filtered off and the ethanol removed under reduced pressure. The residue was taken up in CHCl3 (50 mL) warmed to about 50° C. and heptane (50 mL) was added. After cooling to ambient temperature, the product was collected, washed with 1:2 CHCl3:heptane (30 mL) and dried in a vacuum oven to afford (1S,3S,4R)-N,N-dibenzyl-3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)-4-methylcyclopentanamine as a tan solid (5.1 g, 67%) 1H NMR (400 MHz, DMSO) δ 12.18 (s, 1H), 8.52 (s, 1H), 7.60 (s, 1H), 7.44-7.29 (m, 8H), 7.22 (t, J=7.2 Hz, 2H), 6.84 (d, J=3.4 Hz, 1H), 3.86 (dd, J=17.6, 8.8 Hz, 1H), 3.77-3.59 (m, 4H), 3.41-3.17 (m, 2H), 2.64-2.53 (m, 1H), 2.32-2.06 (m, 3H), 1.49-1.30 (m, 1H), 0.40 (d, J=7.0 Hz, 3H).

reactant | 1-((1S,2R,4S)-4-(dibenzylamino)-2-methylcyclopentyl)-2-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-ylamino)ethanone | 17.51 mmol, 11.2 g | C(C1=CC=CC=C1)N([C@H]1C[C@H]([C@H](C1)C(CNC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)=O)C)CC2=CC=CC=C2 | C35H37N5O3S
reactant | TFA | 35.0 mmol, 2.70 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFAA | 175 mmol, 24.46 ml | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | sodium hydroxide | 70.0 mmol, 2N, 35.0 ml | [OH-].[Na+]
reactant | 2-methyl-tetrahydrofuran | 100 mL | CC1OCCC1 | C5H10O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | brine | 100 mL | [Cl-].[Na+].O
product | (1S,3S,4R)-N,N-dibenzyl-3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)-4-methylcyclopentanamine | 5.1 g, 67% | C(C1=CC=CC=C1)N([C@@H]1C[C@@H]([C@@H](C1)C)C1=CN=C2N1C1=C(N=C2)NC=C1)CC1=CC=CC=C1 | C28H29N5
